US08404740B2
(8-Allyl-1,4-dioxaspiro[4.5]dec-8-yl)-benzyl-amine (C-13)
A 1 M solution of allylmagnesium bromide (127 ml, 127 mmol) was added dropwise to a solution of benzyl-(1,4-dioxaspiro[4.5]dec-8-ylidene)amine (15.6 g, 63.7 mmol) in dichloromethane (120 ml), and the reaction mixture was stirred for 72 h at room temperature. The mixture was then poured carefully onto saturated ammonium chloride solution (100 ml), while cooling with ice, and extraction with dichloromethane (3×40 ml) was carried out. The combined organic phases were dried with sodium sulfate and concentrated in vacuo, and the residue was purified by flash chromatography (400 g, 20×7.6 cm) with chloroform/methanol (10:0.2).

reactant | allylmagnesium bromide | 127 mmol, 127 ml | C(C=C)[Mg]Br
reactant | benzyl-(1,4-dioxaspiro[4.5]dec-8-ylidene)amine | 63.7 mmol, 15.6 g | C(C1=CC=CC=C1)N=C1CCC2(OCCO2)CC1 | C15H19NO2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (8-Allyl-1,4-dioxaspiro[4.5]dec-8-yl)-benzyl-amine | C(C=C)C1(CCC2(OCCO2)CC1)NCC1=CC=CC=C1 | C18H25NO2
